* File: xor2.pex.netlist.pex
* Created: Sun May  1 15:52:56 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%GND! 1 4 17 19 25
c53 4 0 1.332e-19
r54 17 19 0.394676
r55 12 17 0.592014
r56 10 12 0.150585
r57 7 25 10
r58 4 7 0.752952
r59 4 25 10
r60 2 10 0.0515295
r61 2 4 1.1739
r62 1 19 15
r63 1 17 10
r64 1 12 10
.ends

.subckt PM_XOR2%NET27 2 6 9 31 32 36 45 46 47 50 51 52 55
c89 47 0 1.332e-19
c90 9 0 1.72984e-19
c91 6 0 2.12764e-20
r92 47 49 0.182162
r93 44 55 2.92256
r94 43 46 0.122928
r95 43 45 0.120889
r96 43 44 25
r97 39 52 10
r98 36 39 1.01328
r99 36 49 0.713174
r100 36 52 10
r101 32 47 0.0261991
r102 32 46 0.294784
r103 31 45 0.445183
r104 27 50 15
r105 24 27 0.502386
r106 24 50 10
r107 21 24 0.752952
r108 21 50 10
r109 18 21 0.752952
r110 18 50 10
r111 15 18 0.752952
r112 15 50 10
r113 12 15 1.34053
r114 12 51 10
r115 9 12 0.752952
r116 9 51 10
r117 7 31 0.0479332
r118 7 9 0.675277
r119 2 6 69.9487
r120 1 55 3.12463
r121 1 2 16.0034
.ends

.subckt PM_XOR2%OUT 3 11 28 36 51 54 55 58 61 62 65 66 67 70 73 75 76 77 78 79
+ 80 81
c117 73 0 1.07518e-19
c118 70 0 1.60323e-19
c119 66 0 2.12764e-20
c120 62 0 5.98926e-19
c121 11 0 9.24893e-20
r122 75 77 0.200576
r123 70 73 1.7
r124 68 77 0.0827788
r125 68 70 0.093056
r126 66 75 0.0494921
r127 66 67 0.56412
r128 65 67 0.0494921
r129 65 76 0.257598
r130 61 62 1.7
r131 59 76 0.0827788
r132 59 61 0.0796345
r133 57 73 0.102894
r134 57 58 0.0611101
r135 55 73 0.101697
r136 55 56 0.0611101
r137 53 62 0.0969115
r138 53 54 0.0611101
r139 51 62 0.107679
r140 51 52 0.0611101
r141 48 79 15
r142 45 48 0.502386
r143 45 79 10
r144 42 45 0.752952
r145 42 79 10
r146 39 42 0.752952
r147 39 79 10
r148 36 39 0.752952
r149 36 58 0.970945
r150 36 79 10
r151 32 56 0.556258
r152 32 81 10
r153 28 32 0.752952
r154 28 81 10
r155 23 78 15
r156 20 23 0.502386
r157 20 78 10
r158 17 20 0.752952
r159 17 78 10
r160 14 17 0.752952
r161 14 78 10
r162 11 14 0.752952
r163 11 54 0.957164
r164 11 78 10
r165 7 52 0.555005
r166 7 80 10
r167 3 7 0.752952
r168 3 80 10
.ends

.subckt PM_XOR2%B 4 6 9 10 12 14 17 25 42 44 46 47
c101 44 0 3.03225e-19
c102 17 0 1.60323e-19
c103 14 0 1.45499e-19
c104 6 0 3.2006e-19
c105 4 0 1.60282e-19
r106 42 49 25
r107 42 44 0.85
r108 37 46 15
r109 34 37 0.676082
r110 34 46 10
r111 31 34 1.01328
r112 31 46 10
r113 28 31 1.01328
r114 28 46 10
r115 25 28 1.01328
r116 25 46 10
r117 23 25 1.28641
r118 21 47 10
r119 17 21 1.01328
r120 17 47 10
r121 15 42 0.125768
r122 15 23 0.0490553
r123 15 21 0.74858
r124 9 49 4.17508
r125 9 10 0.833027
r126 6 14 153.887
r127 5 10 5.18609
r128 5 6 60.5162
r129 4 10 5.18609
r130 3 12 69.9487
r131 3 4 16.0034
.ends

.subckt PM_XOR2%VDD! 1 4 24 29 34
r61 26 29 0.332634
r62 24 26 0.0698532
r63 21 24 0.429098
r64 19 21 0.128896
r65 17 34 15
r66 14 17 0.502386
r67 14 34 10
r68 11 14 0.752952
r69 11 34 10
r70 8 11 0.752952
r71 8 34 10
r72 4 8 0.752952
r73 4 34 10
r74 2 19 0.053567
r75 2 17 1.62117
r76 1 29 15
r77 1 26 10
r78 1 21 10
.ends

.subckt PM_XOR2%C 4 6 8 9 10 13 14 16 18 21 22 26 45 48 50 52 57
c97 57 0 1.45499e-19
c98 21 0 1.57616e-19
r99 48 54 25
r100 48 50 1.7
r101 43 57 0.0918519
r102 42 45 0.138583
r103 42 43 25
r104 39 52 15
r105 36 39 0.676082
r106 36 52 10
r107 33 36 1.01328
r108 33 52 10
r109 30 33 1.01328
r110 30 52 10
r111 26 30 1.01328
r112 26 52 10
r113 24 39 1.01159
r114 22 24 0.0479332
r115 22 45 0.347713
r116 19 57 12.0451
r117 19 21 153.887
r118 13 54 4.17508
r119 13 14 0.833027
r120 9 57 2.79881
r121 9 10 54.0513
r122 8 10 3.46412
r123 7 18 153.887
r124 7 8 63.3778
r125 6 18 153.887
r126 5 14 5.18609
r127 5 6 16.0034
r128 4 14 5.18609
r129 3 16 69.9487
r130 3 4 16.0034
.ends

